US04209616
To a solution of 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylic acid (syn-isomer)(2.0 g) in tetrahydrofuran (50 ml.) maintained at 37° was added portionwise a solution of diphenyldiazomethane in petroleum (b.p. 60°-80°) until the purple colour persisted for one hour. After addition of acetic acid to destroy excess diphenyldiazomethane, the solution was evaporated to dryness, taken up in ethyl acetate, then washed with sodium bicarbonate, and brine, dried and evaporated. The residue was triturated with petroleum spirit, and the resulting solid filtered and dried to give diphenylmethyl 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylate (syn-isomer) (1.93 g 69%), [α]D +24° (c 1, DMSO), λmax. (EtOH) 253 nm (ε 16,150), νmax. (CHBr3) 3610 (OH), 1796 cm.-1 (β-lactam), τ (DMSO-d6) values include 0.27 (doublet, J 9 Hz; NH), 8.03 (singlet; OCOCH 3).

reactant | 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylic acid | 2.0 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C18H17N3O7S
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | diphenylmethyl 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenylacetamido)ceph-3-em-4-carboxylate | 1.93 g, 69% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C31H27N3O7S
